* Transistors
Q1 4 5 3 NPN
Q2 3 3 2 NPN

* Resistors
R1 4 5 10k
R2 4 3 10k

* Voltage Source
VCC 4 2 DC 15V

* Input
Rin 5 1 50

* Ground
.param gnd 0